US08426437B2
This compound is prepared according to synthesis 25, from 115 mg (0.30 mmol) of 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid (synthesis 2) and 32 μL (0.36 mmol) of morpholine. After trituration in hot methanol, 5 mg (4%) of 8-(morpholine-4-sulfonyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-ethyl carboxylate is obtained in the form of a gray solid.

reactant | 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid | 0.30 mmol, 115 mg | ClS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3C(=O)O | C12H7ClN2O5S
reactant | morpholine | 0.36 mmol, 32 μL | N1CCOCC1 | C4H9NO
solvent | methanol | CO | CH4O
product | 8-(morpholine-4-sulfonyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline 1-ethyl carboxylate | 5 mg, 4% | N1(CCOCC1)S(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3.C(C)C(=O)[O-] | InChI=1S/C15H15N3O4S.C3H6O2/c19-15-14-11(3-4-16-14)12-9-10(1-2-13(12)17-15)23(20,21)18-5-7-22-8-6-18;1-2-3(4)5/h1-4,9,16H,5-8H2,(H,17,19);2H2,1H3,(H,4,5)/p-1
